US05290957
218.5 μl (214.3 mg, 2 mmol) of benzylamine and 10 cm3 of dry methylene chloride are introduced under argon into a 50 cm3 single-necked flask surmounted by a condenser and equipped with a magnetic stirring system. 418 μl (303 mg, 3 mmol) of triethylamine and, in small portions (exothermic reaction), 524 mg (2.4 mmol) of pure di-t-butyl dicarbonate are added to the solution obtained. When the addition is complete, the reaction is left to proceed for 4 hours at a temperature of about 20° C. and the resulting reaction mixture is then diluted with 40 cm3 of methylene chloride. The organic phase is washed 4 times with 5 cm3 of water and once with 5 cm3 of a saturated aqueous solution of sodium chloride. The organic phase is dried over anhydrous sodium sulphate. After filtration, the methylene chloride is driven off under reduced pressure on a rotary evaporator. The residue obtained (505 mg) is purified by chromatography on a column of silica gel using an ethyl acetate/methylene chloride mixture (5/95 by volume) as the eluent. 406 mg (1.96 mmol) of t-butyl benzylcarbamate are thus obtained in the form of a white solid with a yield of 98%, said product having the following characteristics:

reactant | benzylamine | 2 mmol, 218.5 μl, 214.3 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 3 mmol, 418 μl, 303 mg | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 2.4 mmol, 524 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 40 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 cm3 | C(Cl)Cl | CH2Cl2
product | t-butyl benzylcarbamate | 1.96 mmol, 406 mg, yield of 98% | C(C1=CC=CC=C1)NC(OC(C)(C)C)=O | C12H17NO2
